US05646173
An ozone stream (3 g ozone/hour) was conducted for 80 minutes while stirring through a solution, cooled to -70°, of 16.3 g of (RS)-2-(2-buten-1-yl)-6-methyl-1-indanone in 300 ml of anhydrous dichloromethane and 60 ml of anhydrous methanol. Subsequently, the mixture was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 8.95 ml of dimethyl sulfide, the mixture was stirred at room temperature for 15 hours. The reaction mixture was evaporated in a vacuum, the residue was treated with 300 ml of dichoromethane and, after the addition of 40 ml of water and 40 ml of trifluoroacetic acid, stirred at room temperature for 3 hours. The mixture was subsequently poured into 200 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 100 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 200 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. The crude product obtained was recrystallized from diethyl ether/hexane. 12.7 g (82%) of (RS)-2-(2-oxoethyl)-6-methyl-1-indanone were obtained as a light yellow solid with m.p. 53°-54°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-6-methyl-1-indanone | 16.3 g | C(C=CC)C1C(C2=CC(=CC=C2C1)C)=O | C14H16O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | methanol | 60 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-6-methyl-1-indanone | 12.7 g, 82% | O=CCC1C(C2=CC(=CC=C2C1)C)=O | C12H12O2
